US04512898
4.69 g of L-valine was dissolved in 40 ml of a 1N sodium hydroxide aqueous solution, and 5 ml of tetrahydrofuran was added to the solution. While stirring, 4.00 g of tert-butyl isocyanate was added, and the stirring was continued overnight at room temperature. After 10 ml of a 1N sodium hydroxide aqueous solution was added to the reaction mixture, the mixture was washed twice with 50 ml of ethyl acetate and acidified with 6N hydrochloric acid. Then, the reaction mixture was extracted twice with 100 ml of ethyl acetate. The extracts were washed twice with 50 ml of a saturated sodium chloride aqueous solution. After drying over anhydrous sodium sulfate and then concentrating under reduced pressure, recrystallization was carried out from an ethyl acetate-hexane mixture to obtain 6.6 g of N-tert-butylcarbamoyl-L-valine as white crystals.

reactant | L-valine | 4.69 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | tert-butyl isocyanate | 4.00 g | C(C)(C)(C)N=C=O | C5H9NO
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-tert-butylcarbamoyl-L-valine | 6.6 g | C(C)(C)(C)NC(=O)N[C@@H](C(C)C)C(=O)O | C10H20N2O3
